US08440710B2
Step 3: 8-(4-Cyclopropyl-phenyl)-1-oxa-8-aza-dispiro[2.2.4.2]dodecan-7-one
A solution of 0.251 g (0.89 mmol) 2-(4-cyclopropyl-phenyl)-8-methylene-2-aza-spiro[4.5]decan-1-one in 3 mL DCM was added at 0° C. to a solution of 0.157 g (0.91 mmol) m-chloroperbenzoic acid and 0.098 mg (1.1 mmol) NaHCO3 in 3 mL DCM and allowed to stir to room temperature and continued for another hour at room temperature. The mixture was poured onto water and extracted with DCM. The combined organic phases were dried with MgSO4, filtered and evaporated. The title compound (0.312 g) was used in the consecutive step without further purification. MS (m/e): 298.8 [MH+].

reactant | 2-(4-cyclopropyl-phenyl)-8-methylene-2-aza-spiro[4.5]decan-1-one | 0.89 mmol, 0.251 g | C1(CC1)C1=CC=C(C=C1)N1C(C2(CC1)CCC(CC2)=C)=O | C19H23NO
reactant | m-chloroperbenzoic acid | 0.91 mmol, 0.157 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 1.1 mmol, 0.098 mg | C(=O)(O)[O-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 8-(4-Cyclopropyl-phenyl)-1-oxa-8-aza-dispiro[2.2.4.2]dodecan-7-one | C1(CC1)C1=CC=C(C=C1)N1C(C2(CCC3(CO3)CC2)CC1)=O | C19H23NO2
